US05410054
Step 1: 7-tert-Butyldimethylsiloxy-4-phenyl-quinoline
A mixture of 7-hydroxy-4-phenylquinoline (366 mg), tert-butyldimethylsilyl chloride (200 mg) and imidazole (282 mg) in DMF (2 mL) was stirred at r.t. for 17 hr and then diluted with 5% aq. NaHCO3 (20 mL). The mixture was extracted with EtOAc (3×) and the combined organics were washed with H2O (3×), brine, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; EtOAc/hexane (15:85)) provided the title compound as a solid.

reactant | 7-hydroxy-4-phenylquinoline | 366 mg | OC1=CC=C2C(=CC=NC2=C1)C1=CC=CC=C1 | C15H11NO
reactant | tert-butyldimethylsilyl chloride | 200 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 282 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | 7-tert-Butyldimethylsiloxy-4-phenyl-quinoline | O([Si](C)(C)C(C)(C)C)C1=CC=C2C(=CC=NC2=C1)C1=CC=CC=C1 | C21H25NOSi
